US05872136
Step B: 2-Phenyl-5-methylpyridine
A mixture of 2-bromo-5-methylpyridine (2.00 g, 11.63 mmol), phenylboronic acid (1.56 g, 12.79 mmol), barium hydroxide (5.50 g, 17.4 mmol), DME (80 mL) and water (15 mL) was purged with dry argon. Tetrakis(triphenylphosphine)palladium(0) (672 mg, 0.58 mmol) was added, and the resultant solution was stirred at 80° C. for 4 hours. The solvents were evaporated in vacuo, and the residue partitioned between EtOAc and water and acidified with 1M aq. HCl. The aqueous extract was separated, and extracted with EtOAc. The organic extracts were combined, washed with NaHCO3 and 5% aq. Na2S2O3, dried (Na2SO4), filtered and the solvent evaporated in vacuo. The residue was purified by chromatography (Silica gel, CH2Cl2) to afford the title compound.

reactant | 2-bromo-5-methylpyridine | 11.63 mmol, 2.00 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | phenylboronic acid | 12.79 mmol, 1.56 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | barium hydroxide | 17.4 mmol, 5.50 g | [OH-].[Ba+2].[OH-]
reactant | DME | 80 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.58 mmol, 672 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 15 mL | O | H2O
product | 2-Phenyl-5-methylpyridine | C1(=CC=CC=C1)C1=NC=C(C=C1)C | C12H11N
